US06200995B1
47.3 Preparation of 2-(3-chloro-5-pyridyloxy)-5-(2,4-dichlorobenzene-sulfonamido)benzotrifluoride
Using the method of Example 17.4, 2-(3-chloro-5-pyridyloxy)-5-aminobenzotrifluoride (0.394 g) and 2,4-dichlorobenzenesulfonyl chloride (0.34 g) were combined to provide, after flash chromatography and trituration with hexane/ether the title compound as a crystalline solid (0.146 g). mp 129-130° C.

reactant | 2-(3-chloro-5-pyridyloxy)-5-aminobenzotrifluoride | 0.394 g | ClC=1C=NC=C(C1)OC1=C(C=C(C=C1)N)C(F)(F)F | C12H8ClF3N2O
reactant | 2,4-dichlorobenzenesulfonyl chloride | 0.34 g | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | hexane ether | CCCCCC.CCOCC
product | 2-(3-chloro-5-pyridyloxy)-5-(2,4-dichlorobenzene-sulfonamido)benzotrifluoride | 0.146 g | ClC=1C=NC=C(C1)OC1=C(C=C(C=C1)NS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl)C(F)(F)F | C18H10Cl3F3N2O3S
